US04159331
In the manner given in Example 1C, 4-chloro-7-(trifluoromethyl)quinoline is heated with 1-[(p-aminophenyl)sulfonyl]-4-[(3-fluoro-4-propylphenyl)-sulfonyl]piperazine to give 1-[(3-fluoro-4-propylphenyl)sulfonyl]-4-[[4-[[7-(trifluoromethyl)-4-quinolinyl]amino]phenyl]sulfonyl]piperazine.

reactant | 4-chloro-7-(trifluoromethyl)quinoline | ClC1=CC=NC2=CC(=CC=C12)C(F)(F)F | C10H5ClF3N
reactant | 1-[(p-aminophenyl)sulfonyl]-4-[(3-fluoro-4-propylphenyl)-sulfonyl]piperazine | NC1=CC=C(C=C1)S(=O)(=O)N1CCN(CC1)S(=O)(=O)C1=CC(=C(C=C1)CCC)F | C19H24FN3O4S2
product | 1-[(3-fluoro-4-propylphenyl)sulfonyl]-4-[[4-[[7-(trifluoromethyl)-4-quinolinyl]amino]phenyl]sulfonyl]piperazine | FC=1C=C(C=CC1CCC)S(=O)(=O)N1CCN(CC1)S(=O)(=O)C1=CC=C(C=C1)NC1=CC=NC2=CC(=CC=C12)C(F)(F)F | C29H28F4N4O4S2
